US07842713B2
Preparation of Intermediate: methyl 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylate
A mixture of (3,5-difluoropyridin-2-yl)(3-fluoroazetidin-1-yl)methanone (7.49 g, 34.60 mmol), methyl 4-hydroxy-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylate (7.69 g, 34.60 mmol) and Cs2CO3 (16.90 g, 52.0 mmol) in DMF was heated to 110° C. for 30 min, cooled to room temperature, quenched with H2O and extracted with 3×EtOAc. The combined organic layer was washed with 2×H2O, dried over Na2SO4 and concentrated. The residue was purified by Biotage eluting with 25-40% EtOAc in hexanes to give a white foam with ˜20% impurity (10.49 g, 72% yield). 1H NMR (400 MHz, CDCl3) δ 8.18 (d, J=2.27 Hz, 1 H) 7.21-7.30 (m, 2 H) 6.98-7.06 (m, 1 H) 5.26-5.49 (m, 1 H) 4.64-4.77 (m, 1 H) 4.46-4.60 (m, 1 H) 4.28-4.42 (m, 1 H) 4.07-4.23 (m, 1 H) 3.88 (s, 3 H) 2.91 (s, 2 H) 1.49 (s, 6 H); LCMS for C21H20F2N2O5 m/z 419.20 (M+H)+.

reactant | (3,5-difluoropyridin-2-yl)(3-fluoroazetidin-1-yl)methanone | 34.60 mmol, 7.49 g | FC=1C(=NC=C(C1)F)C(=O)N1CC(C1)F | C9H7F3N2O
reactant | methyl 4-hydroxy-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylate | 34.60 mmol, 7.69 g | OC1=CC(=CC2=C1CC(O2)(C)C)C(=O)OC | C12H14O4
reactant | Cs2CO3 | 52.0 mmol, 16.90 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylate | 72% yield | FC=1C=C(C=NC1C(=O)N1CC(C1)F)OC1=CC(=CC2=C1CC(O2)(C)C)C(=O)OC | C21H20F2N2O5
